US04308273
Preparation of 5,6,7,8-tetrahydro-6-(4-pentenyl)-1,6-naphthyridine (Compound No. 15)
A mixture of 1,6-naphthyridine (6.5 g, 0.05 mol) and 4-pentenyl tosylate was heated at 80° C. for 6 hours. The reaction mixture was dissolved in methanol (300 ml) and water (100 ml). To the mixture, sodium borohydride (9.5 g, 0.25 mol) was added portionwise over the internal temperature range 0° to 20° C. After stirring overnight at room temperature, the reaction mixture was evaporated in vacuo, water added and extracted with ether. The organic layer was dried over anhydrous potassium carbonate and evaporated in vacuo. The resulting residue was purified by alumina column chromatography (eluted successively with petroleum ether and ether) and distilled, bp. 110°-112° C./0.35 mmHg, to afford the Compound No. 15 (6.9 g, 68.6%) as a colorless oil.

reactant | 1,6-naphthyridine | 0.05 mol, 6.5 g | N1=CC=CC2=CN=CC=C12 | C8H6N2
reactant | 4-pentenyl tosylate | S(=O)(=O)(OCCCC=C)C1=CC=C(C)C=C1 | C12H16O3S
reactant | sodium borohydride | 0.25 mol, 9.5 g | [BH4-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 5,6,7,8-tetrahydro-6-(4-pentenyl)-1,6-naphthyridine | C(CCC=C)N1CC=2C=CC=NC2CC1 | C13H18N2
